US04593029
I. Preparation of 6-Chlorohexyl-p-Toluenesulfonate
A solution of 6-chloro-1-hexanol (100 g) in dry pyridine (500 ml) was treated with p-toluenesulfonyl chloride (227 g) at 5°-10° C. After stirring 2 h at 10° C., the mixture was poured into ice water (2 L), followed by extraction with ethyl ether. The organic extract was washed with ice water and brine, dried, filtered and evaporated to give a syrup, which was further dried at high vacuum. The crude product was overlayered with pentane and cooled in dry ice/acetone to give a solid (210 g, 99%), mp 36°-37° C.

reactant | 6-chloro-1-hexanol | 100 g | ClCCCCCCO | C6H13ClO
reactant | p-toluenesulfonyl chloride | 227 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 500 ml | N1=CC=CC=C1 | C5H5N
product | 6-Chlorohexyl-p-Toluenesulfonate | 210 g, 99% | ClCCCCCCOS(=O)(=O)C1=CC=C(C=C1)C | C13H19ClO3S
